US04772600
2-(3-Chlorophenyl)-N-[4-(dimethylamino)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride [1:1]
Under a nitrogen atmosphere, oxalyl chloride (2.8 ml, 0.032 mole) was added dropwise (slowly) to a stirred and chilled solution of 2-(3-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (8.0 g, 0.028 mole) in anhydrous dimethylformamide (100 ml). The reaction was heated at 55°-60° C. for 3 hrs, cooled to room temperature, and added dropwise to a stirred and chilled (5°-10° C.) suspension of N,N-dimethyl-p-phenylenediamine dihydrochloride (6.7 g, 0.032 mole) and triethylamine (12.9 g, 0.128 mole) in anhydrous dimethylformamide (200 ml). The reaction was stirred at room temperature over the weekend, filtered, and poured into ice water (600 ml). The mixture was filtered and the filter cake recrystallized from ethanol giving 6.6 g (58%). The solid was converted to the hydrochloride salt in isopropyl alcohol and concentrated hydrochloric acid to give 6.6 g of a white granular solid, mp. 229°-231° C. with decomposition.

reactant | oxalyl chloride | 0.032 mole, 2.8 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(3-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.028 mole, 8.0 g | ClC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10ClN3O2
reactant | N,N-dimethyl-p-phenylenediamine dihydrochloride | 0.032 mole, 6.7 g | Cl.Cl.CN(C1=CC=C(C=C1)N)C
reactant | triethylamine | 0.128 mole, 12.9 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-(3-Chlorophenyl)-N-[4-(dimethylamino)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetamide hydrochloride | 6.6 g | Cl.ClC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)NC1=CC=C(C=C1)N(C)C | InChI=1S/C22H20ClN5O.ClH/c1-27(2)18-10-8-17(9-11-18)25-20(29)14-28-21(15-5-3-6-16(23)13-15)26-19-7-4-12-24-22(19)28;/h3-13H,14H2,1-2H3,(H,25,29);1H
